US06552143B2
Production of 2-Acryloyloxy-1,5-dihydroxy-2-methyladamantane [2-23 (acrylate)]
A total of 6.5 mmole of acryloyl chloride was added dropwise to a mixture of 5 mmole of 2-methyl-1,2,5-adamantanetriol, 7.5 mmole of triethylamine and 50 ml of THF over about 15 minutes. After the completion of addition, the resulting mixture was stirred at room temperature for 1.5 hours. After the addition of water, the reaction mixture was extracted with ethyl acetate, the organic layer was concentrated, and the concentrate was subjected to column chromatography on a silica gel to thereby yield the title compound.

reactant | acryloyl chloride | 6.5 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-methyl-1,2,5-adamantanetriol | 5 mmole | CC1(C2(CC3CC(CC1C3)(C2)O)O)O | C11H18O3
reactant | triethylamine | 7.5 mmole | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Acryloyloxy-1,5-dihydroxy-2-methyladamantane | C(C=C)(=O)OC1(C2(CC3CC(CC1C3)(C2)O)O)C | C14H20O4
